US07598289B2
2-Biphenyl-4-yl-hept-6-en-2-ol (ABD-233)
4-Acetylbiphenyl (2 g) was dissolved in anhydrous THF (30 ml) and reacted with a grignard prepared from 5-bromopentene and magnesium in THF (15 ml) as described in example 23 to give the title compound as a yellow powder.

reactant | 4-Acetylbiphenyl | 2 g | C(C)(=O)C1=CC=C(C=C1)C1=CC=CC=C1 | C14H12O
reactant | 5-bromopentene | BrCCCC=C | C5H9Br
reactant | magnesium | [Mg] | Mg
solvent | THF | 30 ml | C1CCOC1 | C4H8O
solvent | THF | 15 ml | C1CCOC1 | C4H8O
product | 2-Biphenyl-4-yl-hept-6-en-2-ol | C1(=CC=C(C=C1)C(C)(CCCC=C)O)C1=CC=CC=C1 | C19H22O
